US06790977B2
The preparation was carried out according to the process of Example 2a except that 3-ethoxy-4-hydroxybenzonitrile was used as the starting material instead of 3-methoxy-4-hydroxybenzonitrile. 3,4-Dihydroxybenzonitrile was obtained as a white solid with a yield of 79% and a purity of greater than 98% as indicated by HPLC analysis.

reactant | 3-ethoxy-4-hydroxybenzonitrile | C(C)OC=1C=C(C#N)C=CC1O | C9H9NO2
reactant | 3-methoxy-4-hydroxybenzonitrile | COC=1C=C(C#N)C=CC1O | C8H7NO2
product | 3,4-Dihydroxybenzonitrile | yield of 79% | OC=1C=C(C#N)C=CC1O | C7H5NO2
